US06248739B1
3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-1-methyl-4-oxo-1,4-dihydro-6-quinolinyl)propyl dihydrogen phosphate
A solution of 77.8 mg of di(tert-butyl) 3-(3-{[(4-chlorobenzyl)amino]carbonyl}-1-methyl-4-oxo-1,4-dihydro-6-quinolinyl)propyl phosphate from Example No. 32 in 1 mL of 1:1 TFA-dichloromethane is stirred for 1 h, then added slowly to 20 mL of rapidly stirred 1:1 ether-hexane. The precipitated solid is filtered, washed with hexane, and dried under vacuum to afford 67 mg of the title compound as a white solid.

reactant | di(tert-butyl) 3-(3-{[(4-chlorobenzyl)amino]carbonyl}-1-methyl-4-oxo-1,4-dihydro-6-quinolinyl)propyl phosphate | 77.8 mg | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCCCC=1C=C2C(C(=CN(C2=CC1)C)C(=O)NCC1=CC=C(C=C1)Cl)=O | C29H38ClN2O6P
solvent | TFA dichloromethane | 1 mL | C(=O)(C(F)(F)F)O.ClCCl
product | 3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-1-methyl-4-oxo-1,4-dihydro-6-quinolinyl)propyl dihydrogen phosphate | 67 mg | P(=O)(OCCCC=1C=C2C(C(=CN(C2=CC1)C)C(=O)NCC1=CC=C(C=C1)Cl)=O)(O)O | C21H22ClN2O6P
